US04620865
A solution of 2.6 g of 5-bromo-1-phenyl-1H-pyrazole-4-carboxylic acid and 2.4 g of carbonyldiimidazole in 60 ml DMF was stirred at room temperature for 30 minutes. Two grams of triethylamine and 1.7 g of methoxyamine hydrochloride were added to the solution. The mixture was stirred at room temperature for 24 hours and another equivalent of triethylamine and methoxyamine hydrochloride were added. The mixture was heated on the steam bath for two hours and poured into ice water. The precipitated solid was collected by filtration and recrystallized from ethanol to afford 1.0 g of 5-bromo-1-phenyl-N-methoxy-1H-pyrazole-4-carboxamide. Yield 34%. mp=194°-197° C.

reactant | 5-bromo-1-phenyl-1H-pyrazole-4-carboxylic acid | 2.6 g | BrC1=C(C=NN1C1=CC=CC=C1)C(=O)O | C10H7BrN2O2
reactant | carbonyldiimidazole | 2.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | Two grams | C(C)N(CC)CC | C6H15N
reactant | methoxyamine hydrochloride | 1.7 g | Cl.CON
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 5-bromo-1-phenyl-N-methoxy-1H-pyrazole-4-carboxamide | 1.0 g, Yield 34% | BrC1=C(C=NN1C1=CC=CC=C1)C(=O)NOC | C11H10BrN3O2
